US07112585B2
{5-[4-(4,5-Dihydro-1H-imidazol-2-yl)-benzenesulfonyl]-2-methyl-pyrimidin-4-yl}-(2,4,6-trimethylphenyl)-amine
A mixture of 4-[2-methyl-4-(2,4,6-trimethyl-phenylamino)-pyrimidine-5-sulfonyl]-benzonitrile (83 mg, 0.21 mmol), prepared by the method described in Example 22, ethylenediamine (0.042 mL, 0.63 mmol), p-TsOH.H2O (59 mg, 0.31 mmol) and toluene (4 mL) was heated at reflux under N2 overnight and then cooled to room temperature. Saturated aqueous NaHCO3 was added, and the mixture was extracted three times with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (75:25 EtOAc/MeOH) to provide the target compound (14 mg, 15%) as a white solid: mp 240–242° C.; 1H NMR (300 MHz, CDCl3) δ 8.78 (s, 1H), 8.27 (br s, 1H), 8.00 (d, J=8.5 Hz, 2H), 7.95 (d, J=8.5 Hz, 2H), 6.92 (s, 2H), 4.80 (br s, 1H), 3.83 (s, 4H), 2.40 (s, 3H), 2.30 (s, 3H), 2.01 (s, 6H); ESI MS m/z 436 [(M+H)+, calcd for C23H26N5O2S, 436.2].

reactant | 4-[2-methyl-4-(2,4,6-trimethyl-phenylamino)-pyrimidine-5-sulfonyl]-benzonitrile | 0.21 mmol, 83 mg | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C#N)C=C1 | C21H20N4O2S
reactant | ethylenediamine | 0.63 mmol, 0.042 mL | C(CN)N | C2H8N2
reactant | p-TsOH.H2O | 0.31 mmol, 59 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | {5-[4-(4,5-Dihydro-1H-imidazol-2-yl)-benzenesulfonyl]-2-methyl-pyrimidin-4-yl}-(2,4,6-trimethylphenyl)-amine | 14 mg, 15% | N1C(=NCC1)C1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)NC1=C(C=C(C=C1C)C)C | C23H25N5O2S
